US05889003
Step a: 5,7-Dihydroxy-4'-methoxy-3'-pentylflavone
Using the procedure described in Preparation B, replacing 3-cyclopentyloxy-4-methoxybenzoyl chloride by 4-methoxy-3-pentylbenzoyl chloride, and 2,4-dihydroxyacetophenone by 2,4,6-trihydroxyacetophenone, the expected compound is obtained.

reactant | 4-methoxy-3-pentylbenzoyl chloride | COC1=C(C=C(C(=O)Cl)C=C1)CCCCC | C13H17ClO2
reactant | 2,4-dihydroxyacetophenone | CC(=O)C=1C=CC(=CC1O)O | C8H8O3
reactant | 2,4,6-trihydroxyacetophenone | CC(=O)C=1C(=CC(=CC1O)O)O | C8H8O4
product | 5,7-Dihydroxy-4'-methoxy-3'-pentylflavone | OC1=C2C(C=C(OC2=CC(=C1)O)C1=CC(=C(C=C1)OC)CCCCC)=O | C21H22O5
